US05532358
A) Preparation of 3-(tert-Butoxycarbonylamino)-2-methoxypyridine
To a stirred solution of 2.48 g (20 mmol) of 3-amino-2-methoxypyridine and 4.37 g (20 mmol) of di-tert-butyldicarbonate (Boc2O) in 10 mL of THF was added at 0° C. 40 mL of a 1M solution of NaHMDS in THF. The mixture was then stirred at room temperature for 2 hours. The THF was removed by rotary evaporation and the residue was dissolved in EtOAc and washed twice with an equal volume of 0.1N HCl. The EtOAc layer was dried (MgSO4) and concentrated to give 3.9 g (87%) of the desired material as an oil after purification further by flash chromatography on silica gel using 95:5 hexane:EtOAc as the eluant.

reactant | 3-amino-2-methoxypyridine | 20 mmol, 2.48 g | NC=1C(=NC=CC1)OC | C6H8N2O
reactant | di-tert-butyldicarbonate | 20 mmol, 4.37 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(tert-Butoxycarbonylamino)-2-methoxypyridine | 3.9 g, 87% | C(C)(C)(C)OC(=O)NC=1C(=NC=CC1)OC | C11H16N2O3
